US07091227B2
N-[7-(4-Bromoanilino)[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea
To a suspension of N-[7-(4-bromoanilino)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea (27 mg, 0.060 mmol) in toluene (2.0 mL) was added DDQ (28 mg, 0.125 mmol). The reaction mixture was stirred at about 20° C. for about 2 hrs. The reaction mixture was pumped down in vacuo and purified by preparative HPLC. 7 mg (26%, 2 steps) pure product was isolated. LC/MS 448 and 450 (MH+); RP-HPLC 18.09 min.

reactant | N-[7-(4-bromoanilino)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea | 0.060 mmol, 27 mg | BrC1=CC=C(NC=2SC3=C(C4=C(N=C(S4)NC(=O)NCC)CC3)N2)C=C1 | C17H16BrN5OS2
reactant | DDQ | 0.125 mmol, 28 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-[7-(4-Bromoanilino)[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]-N′-ethylurea | BrC1=CC=C(NC=2SC3=C(C4=C(N=C(S4)NC(=O)NCC)C=C3)N2)C=C1 | C17H14BrN5OS2
